US04024128
In a manner analogous to that described in Example 1, from 3-diethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonamide and cyclohexylisocyanate, there is obtained 1-cyclohexyl-3-[(3-diethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)sulfonyl]urea, m.p. 168°-169° C. The starting material can be prepared by the reaction of 2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonamide hydrochloride with diethylcarbamoyl chloride in a manner analogous to that described in Example 1.

reactant | 3-diethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonamide | C(C)N(C(=O)N1CCC2=C(CC1)C=CC(=C2)S(=O)(=O)N)CC | C15H23N3O3S
reactant | cyclohexylisocyanate | C1(CCCCC1)N=C=O | C7H11NO
product | 1-cyclohexyl-3-[(3-diethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)sulfonyl]urea | C1(CCCCC1)NC(=O)NS(=O)(=O)C1=CC2=C(CCN(CC2)C(N(CC)CC)=O)C=C1 | C22H34N4O4S
